US05969139
Reaction of 3-amino-5,5-dimethyl-2-cyclohexen-1-one with 4-cyano-3-nitrobenzaldehyde in an analogous manner to that described in Example 1 gave 4-(2,3,4,5,6,7,8,9-octahydro-3,3,6,6-tetramethyl-1,8-dioxo-1H-acridin-9-yl)-2-nitrobenzonitrile. Crystallization from methanol gave a yellow crystalline solid of melting point 274-275° C.

reactant | 3-amino-5,5-dimethyl-2-cyclohexen-1-one | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 4-cyano-3-nitrobenzaldehyde | C(#N)C1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C8H4N2O3
product | 4-(2,3,4,5,6,7,8,9-octahydro-3,3,6,6-tetramethyl-1,8-dioxo-1H-acridin-9-yl)-2-nitrobenzonitrile | CC1(CC(C=2C(C3C(CC(CC3=NC2C1)(C)C)=O)C1=CC(=C(C#N)C=C1)[N+](=O)[O-])=O)C | C24H25N3O4
